US07342014B2
tert-Butyl 3,6-dihydro-1 (2H)-pyridinecarboxylate
tert-Butyl dicarbonate (6.55 g) was added to a mixture of 1,2,3,6-tetrahydropyridine (2.50 g) and a 10% aqueous solution (3.0 ml) of sodium carbonate, and the mixture was stirred at room temperature for 20 hours. Water was added to the reaction mixture to conduct extraction with ethyl acetate. The resultant organic layer was washed with 0.5N hydrochloric acid, water, a saturated aqueous solution of sodium hydrogencarbonate and saturated aqueous solution of sodium chloride in that order and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure to obtain the title compound (5.08 g).

reactant | tert-Butyl dicarbonate | 6.55 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
reactant | 1,2,3,6-tetrahydropyridine | 2.50 g | N1CCC=CC1 | C5H9N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | Water | O | H2O
product | tert-Butyl 3,6-dihydro-1 (2H)-pyridinecarboxylate | 5.08 g | N1(CCC=CC1)C(=O)OC(C)(C)C | C10H17NO2
